US08258160B2
Synthesis of N-benzyl-2-(4-(4-methoxyphenyl)-1H-1,2,3-triazol-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 10, making variations as necessary to replace phenylacetylene with 4-ethynylanisole to react with 2-azido-N-benzyl-4-methylthiazole-5-carboxamide, the title compound was obtained as a white solid in 45% yield: mp 168-171° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.50 (s, 1H), 7.82 (d, J=8.8 Hz, 2H), 7.38-7.32 (m, 5H), 6.99 (d, J=8.8 Hz, 2H), 6.13 (br s, 1H), 4.63 (d, J=6.0 Hz, 2H), 3.86 (s, 3H), 2.71 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 160.9, 160.2, 155.5, 153.3, 148.6, 137.4, 128.9, 127.9, 127.9, 127.4, 124.2, 121.8, 115.8, 114.4, 55.4, 44.4, 17.4; MS (ES+) m/z 406.30 (M+1).

reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 4-ethynylanisole | C(#C)C1=CC=C(C=C1)OC | C9H8O
reactant | 2-azido-N-benzyl-4-methylthiazole-5-carboxamide | N(=[N+]=[N-])C=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1 | C12H11N5OS
product | N-benzyl-2-(4-(4-methoxyphenyl)-1H-1,2,3-triazol-1-yl)-4-methylthiazole-5-carboxamide | 45% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1)C1=CC=C(C=C1)OC)C | C21H19N5O2S
